* e:\fossee\esim\library\subcircuitlibrary\cd4037\cd4037.cir

* u3  net-_u1-pad1_ net-_u3-pad2_ d_inverter
* u5  net-_u1-pad5_ net-_u3-pad2_ net-_u22-pad1_ d_and
* u6  net-_u1-pad1_ net-_u1-pad4_ net-_u22-pad2_ d_and
* u7  net-_u1-pad5_ net-_u1-pad1_ net-_u21-pad1_ d_and
* u8  net-_u1-pad4_ net-_u3-pad2_ net-_u21-pad2_ d_and
* u22  net-_u22-pad1_ net-_u22-pad2_ net-_u22-pad3_ d_or
* u21  net-_u21-pad1_ net-_u21-pad2_ net-_u21-pad3_ d_or
* u23  net-_u22-pad3_ net-_u1-pad6_ d_inverter
* u24  net-_u21-pad3_ net-_u1-pad7_ d_inverter
* u9  net-_u1-pad5_ net-_u12-pad2_ net-_u19-pad1_ d_and
* u10  net-_u1-pad2_ net-_u1-pad4_ net-_u10-pad3_ d_and
* u11  net-_u1-pad5_ net-_u1-pad2_ net-_u11-pad3_ d_and
* u12  net-_u1-pad4_ net-_u12-pad2_ net-_u12-pad3_ d_and
* u19  net-_u19-pad1_ net-_u10-pad3_ net-_u19-pad3_ d_or
* u20  net-_u11-pad3_ net-_u12-pad3_ net-_u20-pad3_ d_or
* u25  net-_u19-pad3_ net-_u1-pad8_ d_inverter
* u26  net-_u20-pad3_ net-_u1-pad9_ d_inverter
* u2  net-_u1-pad2_ net-_u12-pad2_ d_inverter
* u13  net-_u1-pad5_ net-_u13-pad2_ net-_u13-pad3_ d_and
* u14  net-_u1-pad3_ net-_u1-pad4_ net-_u14-pad3_ d_and
* u15  net-_u1-pad5_ net-_u1-pad3_ net-_u15-pad3_ d_and
* u16  net-_u1-pad4_ net-_u13-pad2_ net-_u16-pad3_ d_and
* u17  net-_u13-pad3_ net-_u14-pad3_ net-_u17-pad3_ d_or
* u18  net-_u15-pad3_ net-_u16-pad3_ net-_u18-pad3_ d_or
* u27  net-_u17-pad3_ net-_u1-pad10_ d_inverter
* u28  net-_u18-pad3_ net-_u1-pad11_ d_inverter
* u4  net-_u1-pad3_ net-_u13-pad2_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ port
a1 net-_u1-pad1_ net-_u3-pad2_ u3
a2 [net-_u1-pad5_ net-_u3-pad2_ ] net-_u22-pad1_ u5
a3 [net-_u1-pad1_ net-_u1-pad4_ ] net-_u22-pad2_ u6
a4 [net-_u1-pad5_ net-_u1-pad1_ ] net-_u21-pad1_ u7
a5 [net-_u1-pad4_ net-_u3-pad2_ ] net-_u21-pad2_ u8
a6 [net-_u22-pad1_ net-_u22-pad2_ ] net-_u22-pad3_ u22
a7 [net-_u21-pad1_ net-_u21-pad2_ ] net-_u21-pad3_ u21
a8 net-_u22-pad3_ net-_u1-pad6_ u23
a9 net-_u21-pad3_ net-_u1-pad7_ u24
a10 [net-_u1-pad5_ net-_u12-pad2_ ] net-_u19-pad1_ u9
a11 [net-_u1-pad2_ net-_u1-pad4_ ] net-_u10-pad3_ u10
a12 [net-_u1-pad5_ net-_u1-pad2_ ] net-_u11-pad3_ u11
a13 [net-_u1-pad4_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a14 [net-_u19-pad1_ net-_u10-pad3_ ] net-_u19-pad3_ u19
a15 [net-_u11-pad3_ net-_u12-pad3_ ] net-_u20-pad3_ u20
a16 net-_u19-pad3_ net-_u1-pad8_ u25
a17 net-_u20-pad3_ net-_u1-pad9_ u26
a18 net-_u1-pad2_ net-_u12-pad2_ u2
a19 [net-_u1-pad5_ net-_u13-pad2_ ] net-_u13-pad3_ u13
a20 [net-_u1-pad3_ net-_u1-pad4_ ] net-_u14-pad3_ u14
a21 [net-_u1-pad5_ net-_u1-pad3_ ] net-_u15-pad3_ u15
a22 [net-_u1-pad4_ net-_u13-pad2_ ] net-_u16-pad3_ u16
a23 [net-_u13-pad3_ net-_u14-pad3_ ] net-_u17-pad3_ u17
a24 [net-_u15-pad3_ net-_u16-pad3_ ] net-_u18-pad3_ u18
a25 net-_u17-pad3_ net-_u1-pad10_ u27
a26 net-_u18-pad3_ net-_u1-pad11_ u28
a27 net-_u1-pad3_ net-_u13-pad2_ u4
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u22 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u21 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u19 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u20 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u13 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u14 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u16 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u17 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u18 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u28 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
